US09328106B2
5-bromo-2-fluoro-benzonitrile (12.4 mmol, 2470 mg) in pyridine (6.5 mL) was treated with ammonium sulfide (40 mass % in water, 1.1 equiv., 13.6 mmol, 2.32 mL) and triethylamine (1.1 equiv., 13.6 mmol, 1.90 mL). The reaction mixture was heated at 50° C. for 3 hours, then cooled to room temperature. The reaction mixture was partitioned between EtOAc and water. The organic later was washed with water (3×), and brine (3×), dried with MgSO4, then concentrated. The residue was purified on silica eluted with 0 to 50% EtOAc in Heptane to provide 5-bromo-2-fluoro-benzenecarbothioamide (2.84 g, 94% yield).

reactant | 5-bromo-2-fluoro-benzonitrile | 12.4 mmol, 2470 mg | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | ammonium sulfide | 13.6 mmol, 2.32 mL, 1.1 equiv. | [NH4+]=S
reactant | triethylamine | 13.6 mmol, 1.90 mL, 1.1 equiv. | C(C)N(CC)CC | C6H15N
solvent | pyridine | 6.5 mL | N1=CC=CC=C1 | C5H5N
product | 5-bromo-2-fluoro-benzenecarbothioamide | 2.84 g, 94% yield | BrC=1C=CC(=C(C1)C(N)=S)F | C7H5BrFNS
